US05597921
(1) Preparation of 4-chloromethyl-6-methylindolo[2,3-b]quinoxaline
To a solution of 304 mg (1.16 mmol) of 4-hydroxymethyl-6-methylindolo[2,3-b]quinoxaline in 30 ml of methylene chloride was added 0.126 ml (1.73 mmol, 1.5 eq.) of thionyl chloride under ice-cooling, followed by stirring for 3 hours. The reaction solution was poured into 50 ml of ice water, and extracted with methylene chloride. The organic layer was washed 3 times with a saturated aqueous sodium hydrogen carbonate solution and dried over anhydrous sodium sulfate. Evaporation of the solvent gave 335 mg of the crude product 4-chloromethyl-6-methylindolo[2,3-b]quinoxaline, which was used for the next reaction without further purification.

reactant | 4-hydroxymethyl-6-methylindolo[2,3-b]quinoxaline | 1.16 mmol, 304 mg | OCC=1C=CC=C2N=C3C(=NC12)N(C=1C=CC=CC13)C | C16H13N3O
reactant | thionyl chloride | 1.73 mmol, 0.126 ml, 1.5 eq. | S(=O)(Cl)Cl | Cl2OS
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
product | 4-chloromethyl-6-methylindolo[2,3-b]quinoxaline | 335 mg | ClCC=1C=CC=C2N=C3C(=NC12)N(C=1C=CC=CC13)C | C16H12ClN3
